US07781428B2
methyl 6-(2-furylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate
The title compound was prepared from 5-oxo-5,6,7,8-tetrahydronaphtalene-2-carboxylic acid methyl ester (396 mg, 1.9 mmol) and 2-furaldehyde (192 mg, 2.0 mmol) according to Method A3 in 80% yield. ES-MS m/z 283 (M+H).

reactant | 5-oxo-5,6,7,8-tetrahydronaphtalene-2-carboxylic acid methyl ester | 1.9 mmol, 396 mg | COC(=O)C1=CC=2CCCC(C2C=C1)=O | C12H12O3
reactant | 2-furaldehyde | 2.0 mmol, 192 mg | O1C(=CC=C1)C=O | C5H4O2
product | methyl 6-(2-furylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 80% yield | O1C(=CC=C1)C=C1C(C=2C=CC(=CC2CC1)C(=O)OC)=O | C17H14O4
